US04605663
Step B 5-[(6,7-Dichloro-2-cyclopentyl-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)oxy]pentanoic acid
A mixture of methyl 5-[(6,7-dichloro-2-cyclopentyl-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)oxy]pentanoate (14 g., 0.0339 mole), acetic acid (100 ml) and 6N hydrochloric acid (50 ml) is stirred and refluxed for 6 hours. The mixture is poured into water (400 ml) and the product which solidifies upon standing is removed by filtration and dried. The product is recrystallized from a mixture of tetrahydrofuran, ether and petroleum ether (50/100/200 ml) to give 12.5 g, of 5-[6,7-dichloro-2-cyclopentyl-2,3-dihydro-2-methyl-1-oxo-1-inden-5-yl)oxy)pentanoic acid, m.p. 106°-108° C.

reactant | methyl 5-[(6,7-dichloro-2-cyclopentyl-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)oxy]pentanoate | 0.0339 mole, 14 g | ClC1=C(C=C2CC(C(C2=C1Cl)=O)(C)C1CCCC1)OCCCCC(=O)OC | C21H26Cl2O4
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
reactant | hydrochloric acid | 6N, 50 ml | Cl | ClH
reactant | pentanoic acid | C(CCCC)(=O)O | C5H10O2
solvent | water | 400 ml | O | H2O
product | 5-[(6,7-Dichloro-2-cyclopentyl-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)oxy]pentanoic acid | ClC1=C(C=C2CC(C(C2=C1Cl)=O)(C)C1CCCC1)OCCCCC(=O)O | C20H24Cl2O4
